US04851418
[R]-1-(Phenylmethyl)-3-pyrrolidinamine
A solution of 30.6 g (0.1 mol) of [R]-2-[1-(phenylmethyl)-3-pyrrolidinyl]-1H-isoindole-1,3(2H)-dione in 300 ml of methanol was treated with 6.4 g (0.2 mol) of hydrazine. The reaction was stirred at room temperature for 18 hours and treated with 12.5 ml (0.15 mol) of concentrated hydrochloric acid. The solid was removed by filtration; the precipitate was washed with ethanol and the filtrate evaporated in vacuo. The residue was dissolved in water, made basic with 20% sodium hydroxide saturated with sodium chloride and extracted with ether (3×250 ml). The combined ether layers were washed with saturated sodium chloride solution, dried (MgSO4), filtered and evaporated in vacuo. The residue was distilled in high vacuo to give 14.4 g of the title compound, bp 86°-87°/0.15 mm.

reactant | [R]-2-[1-(phenylmethyl)-3-pyrrolidinyl]-1H-isoindole-1,3(2H)-dione | 0.1 mol, 30.6 g | C1(=CC=CC=C1)CN1C[C@@H](CC1)N1C(C2=CC=CC=C2C1=O)=O | C19H18N2O2
reactant | hydrazine | 0.2 mol, 6.4 g | NN | H4N2
reactant | hydrochloric acid | 0.15 mol, 12.5 ml | Cl | ClH
solvent | methanol | 300 ml | CO | CH4O
product | [R]-1-(Phenylmethyl)-3-pyrrolidinamine | 14.4 g | C1(=CC=CC=C1)CN1C[C@@H](CC1)N | C11H16N2
